US07947738B2
(15-a) 4-Allylhepta-2,6-dienoic acid
Lithium aluminum hydride (0.74 g, 20 mmol) was added to a tetrahydrofuran solution (30 mL) of ethyl 2-allylpent-4-ene-acetate (2.20 g, 13.1 mmol) under ice cooling, and the mixture was stirred in this state for 1 hour. To the reaction solution, a 1 N aqueous sodium hydroxide solution (10 mL) was added, and the mixture was stirred at room temperature for 1 hour and then filtered through Celite. The filtrate was diluted with saturated saline and ethyl acetate and separated into aqueous and organic layers. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. A dichloromethane solution (20 mL) of oxalyl chloride (1.6 mL, 13.1 mmol) was added dropwise to a dichloromethane solution (10 mL) of dimethyl sulfoxide (2.7 mL, 19.5 mmol) under cooling to −78° C. To the reaction solution, a dichloromethane (10 mL) solution of the above-obtained residue was added, and this mixture was stirred at −78° C. for 1 hour. To the reaction solution, triethylamine (7.1 mL, 52.4 mmol) was added, and the mixture was stirred at room temperature for 1 hour. 1 N hydrochloric acid and saturated saline were added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was dissolved in pyridine (2.3 mL). To the solution, malonic acid (1.55 g, 14.95 mmol) and pyrrolidine (0.43 mL) were added, and the mixture was stirred overnight at room temperature and further stirred for 6 hours under heating to reflux. The mixture was allowed to cool, then diluted with a 2 N aqueous sodium hydroxide solution, and then washed with dimethyl ether. The aqueous layer was made acidic using concentrated hydrochloric acid under ice cooling, followed by extraction with diethyl ether. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the compound of interest as a pale yellow oil substance (1.49 g, 78%).

reactant | Lithium aluminum hydride | 20 mmol, 0.74 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-allylpent-4-ene acetate | 13.1 mmol, 2.20 g | C(C)CC(CC=C)CC=C.C(C)(=O)[O-]
reactant | oxalyl chloride | 13.1 mmol, 1.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 19.5 mmol, 2.7 mL | CS(=O)C | C2H6OS
reactant | triethylamine | 52.4 mmol, 7.1 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | malonic acid | 14.95 mmol, 1.55 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyrrolidine | 0.43 mL | N1CCCC1 | C4H9N
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | sodium hydroxide | 1 N, 10 mL | [OH-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-Allylhepta-2,6-dienoic acid | C(C=C)C(C=CC(=O)O)CC=C | C10H14O2
